US03931197
A mixture of 11 g (0.035 mole) of α-phenyl-α-(p-chlorophenyl)-4-piperidinemethanol, 12.5 g (0.05 mole) of 4'-tert-butyl-4-chlorobutyrophenone, 10 g of potassium bicarbonate, 0.1 g of potassium iodide, 100 ml of toluene and 10 ml of water is refluxed with stirring for about 93 hours. Upon cooling to room temperature the mixture is filtered and the toluene layer is separated. The aqueous layer is extracted with toluene. The combined organic fractions are washed with water and saturated sodium chloride solution, dried over magnesium sulfate, and filtered. To the filtrate is added an equal volume of ether followed by treatment with ethereal HCl. The resulting precipitate is collected and recrystallized from methanol-butanone to give 4'-tert-butyl-4-[4-[α-hydroxy-α-(p-chlorophenyl)benzyl]-piperidino]butyrophenone hydrochloride, M.P. 238.5°-240°C.

reactant | α-phenyl-α-(p-chlorophenyl)-4-piperidinemethanol | 0.035 mole, 11 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)Cl | C18H20ClNO
reactant | 4'-tert-butyl-4-chlorobutyrophenone | 0.05 mole, 12.5 g | C(C)(C)(C)C1=CC=C(C=C1)C(CCCCl)=O | C14H19ClO
reactant | potassium bicarbonate | 10 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | water | 10 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-tert-butyl-4-[4-[α-hydroxy-α-(p-chlorophenyl)benzyl]-piperidino]butyrophenone hydrochloride | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)Cl)O)=O | InChI=1S/C32H38ClNO2.ClH/c1-31(2,3)25-13-11-24(12-14-25)30(35)10-7-21-34-22-19-28(20-23-34)32(36,26-8-5-4-6-9-26)27-15-17-29(33)18-16-27;/h4-6,8-9,11-18,28,36H,7,10,19-23H2,1-3H3;1H
